US04450105
0.959 g (2.0 mmole) of the 2HCl.H-Pro-Arg-CHA was dissolved in 8 ml of 0.75N NEM/DMF, to which was added 0.863 g (2.0 mmole) of BOC-D-Thr(OBzl)-SDP at0°-5° C., and the reaction was effected at room temperature for 18 hours, after which the reaction mixture was poured into 2000 ml of cold 1/1 solution of 10% citric acid/sat. aqueous Nacl. The precipitate was filtered out and dried, to obtain 1.07 g (72.7%) of BOC-D-Thr(OBzl)-Pro-Arg-CHA.

reactant | H-Pro-Arg | N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C11H21N5O3
reactant | BOC-D-Thr(OBzl) | 2.0 mmole, 0.863 g | N([C@H]([C@@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C16H23NO5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | CN(C)C=O | C3H7NO
product | BOC-D-Thr(OBzl)-Pro-Arg | 1.07 g, 72.7% | N([C@H]([C@@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1)C(=O)OC(C)(C)C | C27H42N6O7
